US08034812B2
Production of N-(3-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution (4.0 mL) of 1,3-dimethyl-1H-pyrazole-5-carboxylic acid (109 mg, 0.85 mmol) in tetrahydrofuran were added N,N-dimethylformamide (30 μL, 0.39 mmol) and oxalyl chloride (135 μL, 1.55 mmol), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and a solution of the residue in N,N-dimethylacetamide (2.0 mL) was added dropwise to a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide (200 mg, 0.71 mmol) in N,N-dimethylacetamide (2.0 mL). After the reaction mixture was stirred at room temperature for 1 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate to give the title compound (182 mg, 67%) as a white powder.

reactant | 1,3-dimethyl-1H-pyrazole-5-carboxylic acid | 0.85 mmol, 4.0 mL, 109 mg | CN1N=C(C=C1C(=O)O)C | C6H8N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.55 mmol, 135 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide | 0.71 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(C)=O)C=CC1 | C14H13N5O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-(3-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 182 mg, 67% | C(C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | C20H19N7O3
